US06586633B1
Production of 3′-(N-Cyclopropylaminomethyl)acetophenone
Cyclopropylamine (5.71 g; 10.0 mmol) and triethylamine (1.01 g; 10.0 mmol) were dissolved in methanol (50 ml). While the mixture was stirred in an ice bath, 3′-bromomethylacetophenone (2.13 g; 10.0 mmol) in methanol (10 ml) was added dropwise. The mixture was removed from the ice bath, and stirred for 18 hours at room temperature. The solvent was evaporated under reduced pressure, and the residue was taken up in 2N hydrochloric acid (100 ml), followed by extraction with diethyl ether (100 ml). The aqueous layer was alkalinized with aqueous sodium hydroxide solution, and the mixture was extracted with chloroform (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution and with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1→0:1), to thereby yield 0.66 g of the target compound as yellow oily matter (yield: 34.9%).

reactant | Cyclopropylamine | 10.0 mmol, 5.71 g | C1(CC1)N | C3H7N
reactant | triethylamine | 10.0 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | 3′-bromomethylacetophenone | 10.0 mmol, 2.13 g | BrCC=1C=C(C=CC1)C(C)=O | C9H9BrO
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 3′-(N-Cyclopropylaminomethyl)acetophenone | yield: 34.9% | C1(CC1)NCC=1C=C(C=CC1)C(C)=O | C12H15NO
